US08486931B2
1.1 5-Chloro-3-(2,4-dimethoxyphenyl)-3-(4-pyridin-4-ylpiperazin-1-yl)-1,3-dihydro-indol-2-one
Pyridine (1.51 mL, 18.76 mmol) and thionyl chloride (1.03 mL, 14.07 mmol) were added to a solution of 5-chloro-3-(2,4-dimethoxyphenyl)-3-hydroxy-1,3-dihydroindol-2-one (prepared as described in WO 2005/030755, 3.00 g, 9.38 mmol) in dichloromethane (70 mL) while cooling in ice. The reaction mixture was then stirred at 0° C. for 1 hour. While stirring, water was added to the reaction mixture, and it was then extracted with dichloromethane. The organic phase was washed with water and saturated brine, dried over sodium sulfate and concentrated under reduced pressure. 1-Pyridin-4-yl-piperazine (2.17 g, 13.31 mmol) was added to a solution of the 3-chloro-oxindole intermediate obtained in this way in dimethylformamide (25 mL), and the reaction mixture was stirred at room temperature for 12 h. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate and water. The aqueous phase was extracted again with ethyl acetate. The combined organic phase was dried over sodium sulfate and concentrated under reduced pressure, resulting in 1.00 g of the title compound which was employed without further purification in the next step.

reactant | Pyridine | 18.76 mmol, 1.51 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 14.07 mmol, 1.03 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chloro-3-(2,4-dimethoxyphenyl)-3-hydroxy-1,3-dihydroindol-2-one | 9.38 mmol, 3.00 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=C(C=C(C=C1)OC)OC | C16H14ClNO4
reactant | 1-Pyridin-4-yl-piperazine | 13.31 mmol, 2.17 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | 3-chloro-oxindole | ClC1C(NC2=CC=CC=C12)=O | C8H6ClNO
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Chloro-3-(2,4-dimethoxyphenyl)-3-(4-pyridin-4-ylpiperazin-1-yl)-1,3-dihydro-indol-2-one | 1.00 g | ClC=1C=C2C(C(NC2=CC1)=O)(N1CCN(CC1)C1=CC=NC=C1)C1=C(C=C(C=C1)OC)OC | C25H25ClN4O3
